US07777047B2
N-methyl-N-[2-(5-methyl-5-{[4-(methylsulfonyl)piperazin-1-yl]methyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
To a mixture of N-methyl-N-{2-[5-methyl-5-(piperazine-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (0.28 g), triethylamine (0.17 ml) and tetrahydrofuran (6 ml) was added methanesulfonyl chloride (0.06 ml) at 0° C., and the reaction mixture was stirred overnight at room temperature, and concentrated. The residue was subjected to basic silica gel column chromatography to give the title compound (0.26 g, yield 81%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (4:1, volume ratio). melting point 209-210° C.

reactant | N-methyl-N-{2-[5-methyl-5-(piperazine-1-ylmethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.28 g | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)(CN1CCNCC1)C | C22H27N5O2S3
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.06 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | N-methyl-N-[2-(5-methyl-5-{[4-(methylsulfonyl)piperazin-1-yl]methyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.26 g, yield 81% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)(CN1CCN(CC1)S(=O)(=O)C)C | C23H29N5O4S4
